* physaudit T2 noise vgs=0.675 rs=400 lg=1.8e-08
.include "/home/dpatni/circuit-repro/.env/pdks/gf180mcu/models/ngspice/design.ngspice"
.lib "/home/dpatni/circuit-repro/.env/pdks/gf180mcu/models/ngspice/sm141064.ngspice" typical
Vnz nin 0 dc 0 ac 1
Rns nin n1 400
Lser n1 n2 1.8e-08
Cblk n2 g 1
Vg gb 0 dc 0.675
Lgb gb g 1
Vd db 0 dc 1.65
Ld db d 1
X1 d g 0 0 nmos_3p3 w=2e-05 l=0.28e-6 nf=10
.control
op
let id = -i(Vd)
print id
noise v(d) Vnz dec 10 8e8 6.5e9
setplot noise1
set wr_singlescale
set wr_vecnames
let inr = inoise_spectrum
wrdata t2g_vg0.675_rs400_lg18_nz.csv inr
.endc
.end
